US07358250B2
Step E: (S)-[6-Iodo-5-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-(tetrahydrofuran-2-ylmethyl)amine
A solution of 1.00 g (2.5 mmol) of (S)-[5-phenyl-6-(triethylsilanyl)-7-H-pyrrolo[2,3-d]pyrimidine-4-yl]-(tetrahydrofuran-2-ylmethyl)-amine and 830 mg (3.7 mmol) of N-iodosuccinimide in 10 ml DMF was stirred at 45° C. for 1 h. The reaction mixture was partitioned between dichloromethane (120 ml) and a 4:1 mixture of brine and saturated aqueous sodium thiosulfate (35 ml). The organic layer was washed with saturated aqueous sodium bicarbonate (1×) and brine (1×), dried over Na2SO4, filtered and concentrated. The residue was dissolved in dichloromethane (10 ml), and hexanes (200 ml) was added slowly. A solid precipitate formed. The solid was filtered off and dried under high vacuum to give the title compound. 1H-NMR (400 MHz, CDCl3) δ 1.51 (m, 1 H), 1.69-1.91 (m, 3 H), 3.19-3.69 (m, 4 H), 3.99 (m, 1 H), 5.27 (t, J=4.4 Hz, 1 H), 7.37-7.56 (m, 5 H), 8.42 (s, 1 H), 13.21 (s, 1 H). Mass Spectrum (ESI) m/e=421.0 (M+1).

reactant | (S)-[5-phenyl-6-(triethylsilanyl)-7-H-pyrrolo[2,3-d]pyrimidine-4-yl]-(tetrahydrofuran-2-ylmethyl)-amine | 2.5 mmol, 1.00 g | C1(=CC=CC=C1)C1=C(NC=2N=CN=C(C21)NC[C@H]2OCCC2)[Si](CC)(CC)CC | C23H32N4OSi
reactant | N-iodosuccinimide | 3.7 mmol, 830 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (S)-[6-Iodo-5-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-(tetrahydrofuran-2-ylmethyl)amine | IC1=C(C2=C(N=CN=C2NC[C@H]2OCCC2)N1)C1=CC=CC=C1 | C17H17IN4O
